US04943574
A mixture of 4.3 parts of 6-(1H-imidazol-1-ylmethyl)-1H-benzotriazol-1-ol monohydrochloride and 120 parts of methanol was hydrogenated at normal pressure and at 50° C. with 2 parts of platinum-on-charcoal catalyst 5%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was crystallized twice from ethanol. The product was filtered off and dried, yielding 2.9 parts (72%) of 5-(1H-imidazol-1-ylmethyl)-1H-benzotriazole monohydrochloride; mp. 230.4° C. (compound 234).

reactant | 6-(1H-imidazol-1-ylmethyl)-1H-benzotriazol-1-ol monohydrochloride | Cl.N1(C=NC=C1)CC=1C=CC2=C(N(N=N2)O)C1
reactant | hydrogen | [H][H] | H2
catalyst | platinum-on-charcoal | [Pt] | Pt
solvent | methanol | CO | CH4O
product | 5-(1H-imidazol-1-ylmethyl)-1H-benzotriazole monohydrochloride | 72% | Cl.N1(C=NC=C1)CC1=CC2=C(NN=N2)C=C1 | InChI=1S/C10H9N5.ClH/c1-2-9-10(13-14-12-9)5-8(1)6-15-4-3-11-7-15;/h1-5,7H,6H2,(H,12,13,14);1H
